US07018988B2
(2S,4EZ)-N-(trans-4-hydroxycyclohexyl)-1-[(2′-methoxy[1,1′-biphenyl]-4-yl)carbonyl]-4-(methoxyimino)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 2′-methoxy[1,1′-biphenyl]-4carboxylic acid, and trans-4-aminocyclohexanol, the title compound was obtained in 61% purity by HPLC. MS(ESI+): m/z=466.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 2′-methoxy[1,1′-biphenyl]-4carboxylic acid | COC1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)O | C14H12O3
reactant | trans-4-aminocyclohexanol | N[C@@H]1CC[C@H](CC1)O | C6H13NO
product | (2S,4EZ)-N-(trans-4-hydroxycyclohexyl)-1-[(2′-methoxy[1,1′-biphenyl]-4-yl)carbonyl]-4-(methoxyimino)-2-pyrrolidinecarboxamide | O[C@@H]1CC[C@H](CC1)NC(=O)[C@H]1N(CC(C1)=NOC)C(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)OC | C26H31N3O5
